Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Reports 3 days of cough, productive of yellow sputum that
improved with ___ cough medicine, but has been associated with
worsening of her chronic shortness of breath.  Says the cough is
similar to previous times she has gotten a "cold."  Denies any
fevers, chills, myalgias, joint pains, or rashes preceding the
onset of cough or since the onset of the cough.

On targeted questioning, she reports that her last "cold" was
sometime in ___, did not require hospitalization at that
time. Says she has been hospitalized many times, isn't sure when
the last time was, but was in ___ for asthma/COPD/cough related
issues.  Denies any known sick contacts.  Endorses ongoing
smoking. Smokes ~4 cigarettes per day plus uses a vaporizer,
which she says she is using to help her quit smoking.  Denies
chronic cough or chronic sputum production.

Reports ___ year of unintentional weight gain (80 lbs), worsening
SOB and DOE (now unable to walk more than a few meters prior to
developing severe palpitations and dyspnea), intermittent
bilateral leg and foot swelling, and worsening vision. She 
blames
all of this on starting Lupron to treat her heavy menstrual
bleeding (chose this over hysterectomy, but feels now that she
made a mistake). Says she was diagnosed with "congestive heart
failure" ~5 months ago.  Says the testing was all done at ___. 

On my review of records, she had a TTE done in ___ that showed
normal LVEF, mild LVH and was concerning for potential
constrictive pericarditis. She had subsequent cardiac/coronary
CTA which revealed clean coronaries and no pericardial effusion. 

She says she was started on a "water pill," but doesn't know 
what
it was called.  Says she had been taking it at night, but this
made her get up ~8 times per night to urinate. A visiting nurse
advised her to take it during the day.

Regarding her sleep apnea. Says she had been using CPAP until 
she
was provided with BIPAP machine just recently (says was 
delivered
only ___ days ago).  Underwent sleep study several months ago
that determined she needed BIPAP and 4 L O2 during sleep.

ROS: Endorses chronic constipation that she controls with diet
and by taking 1 SlimFast per day.  Otherwise, 10 systems 
reviewed
and negative except as noted in HPI above.
 
Past Medical History:
PMHX:
ASTHMA                                                          
ACTIVE SMOKER/TOBACCO ABUSE
ECZEMA     
HYPERLIPIDEMIA                                                  
HYPERTENSION    
MORBID OBESITY                                               
OSA
GASTROESOPHAGEAL REFLUX
CONSTIPATION                                         
MERALGIA PARESTHETICA                                           
BIPOLAR DISORDER (?)
LICHENOID DERMATITIS C?W LICHEN SCLEROSIS (biopsy proven)
ADENOMYOSIS
History of cocaine abuse

PSHx:
ECTOPIC PREGNANCY                                               
TUBAL LIGATION 
 
Social History:
Country of Origin:  US                                          
Marital status:     Significant Other                           
Name ___             ___                                       
___:                                               
Children:           Yes: 1 son, he's in the ___            
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Male                                        
Sexual Abuse:       Denies                                      
Domestic violence:  Denies                                      
Contraception:      Sterilization - tubal ligation; None        
Tobacco use:        Current every day smoker                    
Tobacco Use         ___ ppd                                     
Alcohol use:        Denies         
Recreational drugs  prior hx of cocaine use, clean for a long 
time.                                       
Exercise:           None                                        
Education:          Finished ___ grade.            

 
Family History:
-Mother: fibromyalgia, depression, HTN
-Father: unknown
-___: depression, breast Ca, ovarian Ca, colon Ca 
 
Physical Exam:
Admission Exam:
===============
Gen: NAD, sitting up in chair
HEENT: EOMI, PERRL, anicteric sclera, MMM, no OP
erythema/exudates
Neck: obese, pulsations noted at tragus of ear with patient
sitting fully upright, but they appeared to be arterial
pulsations, exam for JVP limited by neck habitus
Chest: limited inspiratory effort/capacity, diffuse wheezing
heard throughout, only mildly prolonged expiratory phase, no
conversational dyspnea, no accessory muscle use at rest
Cardiovasc: RR, no m/r/g appreciated, 1+ pitting edema of b/l 
___
to at least the knees
Abd: obese, soft, not tender, BS+
GU: no CVA tenderness
MSK: grossly normal strength of arms b/l, no joint
swelling/tenderness of fingers, wrists, elbows, ankles or knees 
Skin: warm, dry, no visible rashes or lesions (exam limited by
patient's current positioning and limited mobility
Neuro: AAOx3, clear speech, conversant, no tremor
Psych: calm, cooperative

DISCHARGE EXAM:
Gen: NAD, sitting up in chair
HEENT: EOMI, PERRL, anicteric sclera, MMM, no OP
erythema/exudates
Neck: obese, difficult to appreciate JVD
Chest: improved inspiratory effort/capacity, diffuse expiratory
wheezing heard throughout, only mildly prolonged expiratory
phase, no conversational dyspnea, no accessory muscle use at
rest. 
Cardiovasc: RR, no m/r/g appreciated, trace to 1+ pitting edema
of b/l distal ___: obese, soft, not tender, BS+
MSK: grossly normal strength of arms b/l, no joint
swelling/tenderness of fingers, wrists, elbows, ankles or knees 
Skin: warm, dry, no visible rashes or lesions
Neuro: AAOx3, clear speech, conversant, no tremor
Psych: calm, cooperative
 
Pertinent Results:
Admission labs
==============
___ 08:24AM BLOOD WBC-4.5 RBC-4.71 Hgb-14.6 Hct-46.4* 
MCV-99* MCH-31.0 MCHC-31.5* RDW-14.5 RDWSD-52.9* Plt ___
___ 08:24AM BLOOD Neuts-62.9 ___ Monos-8.2 Eos-3.8 
Baso-0.4 Im ___ AbsNeut-2.85# AbsLymp-1.11* AbsMono-0.37 
AbsEos-0.17 AbsBaso-0.02
___ 06:32AM BLOOD ___
___ 08:24AM BLOOD Glucose-96 UreaN-7 Creat-0.8 Na-143 
K-5.2* Cl-100 HCO3-29 AnGap-14
___ 09:11PM BLOOD Calcium-8.9 Phos-2.9 Mg-1.9
___ 08:55AM BLOOD ___ pO2-100 pCO2-57* pH-7.38 
calTCO2-35* Base XS-6 Comment-GREEN TOP 
___ 08:59AM BLOOD Lactate-1.2
___ 08:24AM BLOOD cTropnT-<0.01
___ 08:24AM BLOOD proBNP-55
.
.
Micro
======
-___ Flu A&B PCR: negative
-___ BCx: pending
.
.
Imaging
========
___ CXR: image & report reviewed
   "FINDINGS:  There is central vascular engorgement, but no
pulmonary edema.  There is mild cardiomegaly.  There is no large
pleural effusion or consolidation.  There is no osseous
abnormality.   
   IMPRESSION: Elevated central venous pressure or volume.  No
pulmonary edema."
.
.
Discharge labs
==============

 
Brief Hospital Course:
# SOB and progressive DOE
# Acute hypoxic and hypercarbic respiratory failure, due to
# COPD exacerbation
# Asthma with acute exacerbation
# Ongoing cigarette smoking

CXR without focal infiltrate. No fevers or leukocytosis on 
presentation. Flu negative. Admission VBG with elevated pCO2. 
Required 4L O2 on admission. Treated with prednisone, standing 
duonebs, PRN albuterol nebs, abx for atypical PNA coverage 
(doxycycline) with clinical improvement. Of note, her 
improvement in O2 requirement lagged behind her symptomatic 
improvement by ___ days.  She completed her antibiotics on ___ 
and is not being discharged on any further antibiotics. She  
will continue her inhalers, and as below, will now be on daily 
lasix. 

# Possible volume overload
# Possible HFpEF: unlikely
# Possible secondary pulmonary HTN

CXR on admission suggested elevated central venous pressures 
("central vascular engorgement without pulmonary edema"). Trop 
negative. BNP not elevated (55).
 She reports 80 lb weight gain in past year. We were only able 
to verify 22 lb weight gain since ___ based on review 
of WebOMR records. She had TTE in ___ that showed 
normal LVEF, and did not suggest HFpEF,but did suggest 
constriction.  Cardiac CTA in ___ showed clean 
coronaries and no evidence of pericardial disease or pericardial 
effusion.  The patient reports progressive DOE (___ Class 
III-IV symptoms at this point), weight gain, leg swelling and 
palpitations with minimal exertion. In conjunction with treating 
for COPD/asthma exacerbation, we gave IV lasix for diuresis and 
instituted a 2 L fluid restriction plus a 2 gram sodium 
restriction. Despite these interventions, and her being recorded 
as net negative 2.4 L since admission, she gained weight (116 kg 
--> 117 kg). Notably, despite gaining weight (~1 kg on standing 
scale) her symptoms had improved and her hypoxia resolved.  This 
seemed to suggest that she did not have a clinically significant 
component of HFpEF contributing to her hypoxia and progressive 
DOE. With further diuresis, she got down to 115kg, and will now 
be discharged on 20mg PO lasix qday, to be titrated as needed by 
her outpatient doctors. 

# OSA: BIPAP w/ oxygen at night (home settings).

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
2. Simethicone 120 mg PO Q6H:PRN abdominal gas or distention 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH DAILY 
4. Albuterol Inhaler ___ PUFF IH Q4H:PRN tightness, 
wheezing/coughing 
5. Halobetasol Propionate 0.05 % topical DAILY 
6. Ketoconazole 2%  1 Appl TP BID 
7. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute hypoxic & hypercarbic respiratory failure, due to
  # COPD exacerbation
  # Asthma with acute exacerbation
  # Ongoing cigarette smoking
# OSA
# Possible obesity hypoventilation syndrome
# Bipolar d/o

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with shortness of breath and 
low oxygen levels ("hypoxia") due to an exacerbation of your 
COPD and asthma.  You were treated with steroids and nebulizer 
breathing treatments and improved.

The most important thing you can do to prevent this from 
happening again is to stop smoking cigarettes.  No amount of 
smoking is safe for you, and continued smoking will result in 
worsening lung problems and more episodes of severe shortness of 
breath.

It was a pleasure caring for you while you were hospitalized, 
and we wish you the best.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___